US07384963B2
N-Ethyl-2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-N-(naphth-2-ylmethyl)-1,1′-biphenyl-4-carboxamide was prepared from 2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-N-(naphth-2-ylmethyl)-1,1′-biphenyl-4-carboxamide and iodoethane using method L. NMR; δH [2H6]—DMSO 7.94-7.36,(14H, m), 4.89-4.70,(2H, m), 3.46-3.25,(2H, m), 2.55,(3H, s), 2.33-2.28,(3H, m), 1.16-1.09,(3H, b). LCMS; retention time 3.77 min, MH+ 462.

reactant | 2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-N-(naphth-2-ylmethyl)-1,1′-biphenyl-4-carboxamide | CC1=C(C=C(C=C1)C=1OC(=NN1)C)C1=CC=C(C=C1)C(=O)NCC1=CC2=CC=CC=C2C=C1 | C28H23N3O2
reactant | iodoethane | ICC | C2H5I
product | N-Ethyl-2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-N-(naphth-2-ylmethyl)-1,1′-biphenyl-4-carboxamide | C(C)N(C(=O)C1=CC=C(C=C1)C1=C(C=CC(=C1)C=1OC(=NN1)C)C)CC1=CC2=CC=CC=C2C=C1 | C30H27N3O2
